US08669266B2
(iii) 4-{2-[(4-Carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 5 g 4-{2-[(4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester in 50 ml ethanol and 150 ml DMF were added under argon 732 mg Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (5 bar) for 4 h. The suspension was filtered over a plug of Celite® and washed with ethanol and DMF. The crude product was obtained after evaporation of the solvent. Yield: 4.1 g.

reactant | 4-{2-[(4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 5 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)=O | C31H36N4O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-{2-[(4-Carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C)=O | C24H30N4O7
